US08895745B2
Preparation P3: 3-[6-(4-Fluoro-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenylamine
Zinc dust (9.3 g, 142 mmol) was added to a stirred solution of N-[5-(4-fluoro-phenyl)-3-nitro-pyridin-2-yl]-benzene-1,3-diamine (2.3 g, 7.1 mmol) in AcOH (35 ml) at RT. After the exotherm had subsided the reaction was stirred and heated at 60° C. for 3 hours. The mixture was allowed to cool to RT then filtered through Celite—washing with AcOH (˜150 ml). The filtrate was evaporated and the residue was azeotroped with toluene (×2). The residue was taken up in trimethylorthoformate (50 ml) and then stirred and heated at reflux under N2 for 1 hour. After cooling to RT, the volatiles were removed in vacuo. The residue was taken up in EtOH (100 ml). c. HCl (4 ml) was added and the mixture was heated at reflux for 2 hours. After cooling, the mixture was concentrated to ˜4 ml and basified with saturated aqueous NaHCO3. The aqueous mixture was extracted with CH2Cl2 (×3). The combined extracts were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica (40→100% EtOAc/petrol) to give the title compound (0.86 g).

reactant | N-[5-(4-fluoro-phenyl)-3-nitro-pyridin-2-yl]-benzene-1,3-diamine | 7.1 mmol, 2.3 g | FC1=CC=C(C=C1)C=1C=C(C(=NC1)NC1=CC(=CC=C1)N)[N+](=O)[O-] | C17H13FN4O2
reactant | AcOH | 35 ml | CC(=O)O | C2H4O2
catalyst | Zinc | 142 mmol, 9.3 g | [Zn] | Zn
product | 3-[6-(4-Fluoro-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenylamine | 0.86 g | FC1=CC=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)N | C18H13FN4
